US05508446
59.2 g (0.4 mol) of phthalic anhydride, 26.4 g (0.2 mol) of monoethyl malonate, and 15.8 g (0.2 mol) of pyridine are added to 200 ml of toluene, and the reaction mixture is heated under reflux for 4 hours. After terminating the reaction, 100 ml of water is added to the reaction mixture, and an organic layer is separated out. The organic layer is washed with 100 ml of 5%-aqueous acetic acid solution, and toluene is distilled off under a reduced pressure. The residue thus obtained is recrystallized from ethanol, to give 32.7 g (0.15 mol) of ethyl (Z)-3-phthalidylideneacetate. The yield is 75.0%.

reactant | phthalic anhydride | 0.4 mol, 59.2 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | monoethyl malonate | 0.2 mol, 26.4 g | C(CC(=O)[O-])(=O)OCC
reactant | pyridine | 0.2 mol, 15.8 g | N1=CC=CC=C1 | C5H5N
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl (Z)-3-phthalidylideneacetate | 0.15 mol, 32.7 g, yield is 75.0% | C1(=O)O\C(\C2=CC=CC=C12)=C/C(=O)OCC | C12H10O4
